US05849747
(4) Preparation of ethyl 5-{(2RS,3RS)-3-amino-2-(4-nitrophenyl)butyl}-2-furancarboxylate
3.24 g of ethyl 5-{(2RS,3RS)-3-azido-2-(4-nitrophenyl)butyl}-2-furancarboxylate was dissolved in a mixed solution of 50 ml of tetrahydrofuran and 5 ml of water, and 2.37 g of triphenylphosphine was added thereto, followed by heating and refluxing for 6 hours. The reaction solution was left to cool to room temperature, and then ethyl ether and water were added thereto for extraction. The organic layer was washed with a saturated sodium chloride aqueous solution and then dried over anhydrous magnesium sulfate. The drying agent was filtered off, and then, the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (methylene chloride/methanol=100/1→20/1) to obtain 2.89 g of the above-identified compound.

reactant | ethyl 5-{(2RS,3RS)-3-azido-2-(4-nitrophenyl)butyl}-2-furancarboxylate | 3.24 g | N(=[N+]=[N-])C(C(CC1=CC=C(O1)C(=O)OCC)C1=CC=C(C=C1)[N+](=O)[O-])C | C17H18N4O5
reactant | triphenylphosphine | 2.37 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | water | 5 ml | O | H2O
product | ethyl 5-{(2RS,3RS)-3-amino-2-(4-nitrophenyl)butyl}-2-furancarboxylate | 2.89 g | NC(C(CC1=CC=C(O1)C(=O)OCC)C1=CC=C(C=C1)[N+](=O)[O-])C | C17H20N2O5
